US07132539B2
Preparation of 2-{4-[2-tert-butoxycarbonylamino-3-(4-fluorophenyl)-propionyl]-3-ethyl-piperazin-1-yl}-3-naphthalen-2-yl-propionic acid methyl ester (35):
2-(3-Ethyl-piperazin-1-yl)-3-naphthalen-2-yl-propionic acid methyl ester, 34, (2.1 g, 6.4 mmol) and N-Boc-D-4-fluorophenylalanine (1.9 g, 6.8 mmol) and O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (HATU) (4.9 g, 12.9 mmol) are dissolved in anhydrous DMF (20 mL). This reaction mixture is cooled to 0° C., then N-methylmorpholine (0.75 mL, 6.8 mmol) is added. The reaction mixture is placed in a refrigerator overnight. EtOAc (75 mL) and water (300 mL) are added, and the organic layer is separated. The aqueous layer is extracted with EtOAc (3×150 mL). The combined organic layers are washed with water (100 mL), dried over Na2SO4, and concentrated in vacuo. The resulting residue is purified over silica (EtOAc/Hexane, 1:2) to afford 3.5 g (91% yield) of the desired product. 1H NMR (CDCl3, δ): 7.82–7.75 (m, 3H), 7.62 (s, 1H), 7.52–7.40 (M, 2H), 7.34 (m, 1H), 7.22–7.25 (m, 2H), 7.02–6.92 (m2H), 5.75–5.62 (M, 1H), 5.18 (d, J=7.7 Hz, 0.5H), 4.90 (quartet, J=7.7 Hz, 1H), 4750–4.62 (m, 0.5H), 4.50–4.25 (m, 1H), 3.64 (d, J=9.7 Hz, 3H), 3.58–3.38 (m, 1.5H), 3.30–2.90 (m, 6H), 2.90–2.70 (m, 1H), 2.62–2.25 (d, J=11.6 Hz, 1H), 2.15–2.00 (m, 1H), 1.78–1.50 (m, 1.5H), 1.42 (s, 9H), 1.35–1.20 (m, 1H), 0.6 (t, J=9.7 Hz, 2H); 13C NMR, δ 174.2, 171.6, 171.0, 170.2, 164.0, 160.2, 156, 135.7, 133.7, 132.4, 131.4, 131.3, 128.1, 127.8, 127.6, 127.5, 126.2, 125.7, 115.7, 115.5, 115.4, 115.3, 79.9, 68.9, 68.7, 55.9, 54.1, 53.7, 51.4, 51.2, 51.0, 47.5, 46.6, 40.1, 39.1, 38.1, 35.4, 28.5, 22.9, 21.9, 10.6, 10.0

reactant | 2-(3-Ethyl-piperazin-1-yl)-3-naphthalen-2-yl-propionic acid methyl ester | COC(C(CC1=CC2=CC=CC=C2C=C1)N1CC(NCC1)CC)=O | C20H26N2O2
reactant | N-Boc-D-4-fluorophenylalanine | 6.8 mmol, 1.9 g | CC(C)(C)OC(=O)N[C@H](CC1=CC=C(C=C1)F)C(=O)O | C14H18FNO4
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 12.9 mmol, 4.9 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N-methylmorpholine | 6.8 mmol, 0.75 mL | CN1CCOCC1 | C5H11NO
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | water | 300 mL | O | H2O
solvent | EtOAc | 75 mL | CCOC(=O)C | C4H8O2
product | 2-{4-[2-tert-butoxycarbonylamino-3-(4-fluorophenyl)-propionyl]-3-ethyl-piperazin-1-yl}-3-naphthalen-2-yl-propionic acid methyl ester | 3.5 g, 91% yield | COC(C(CC1=CC2=CC=CC=C2C=C1)N1CC(N(CC1)C(C(CC1=CC=C(C=C1)F)NC(=O)OC(C)(C)C)=O)CC)=O | C34H42FN3O5
